### PR TITLE
feat: implement `ac_nf'`, an alternative normalizer that takes terms shared across both sides of an equality into account

### PR DESCRIPTION
**Pull request by alexkeizer**
This PR adds `ac_nf'`, a tactic that normalizes terms up to commutativity and associativity, much like ac_nf, but does it in a way that exposes common terms among both sides of an equality. For example, `x₁ * (y₁ * z) = x₂ * (y₂ * z)` is normalized to `z * (x₁ * y₁) = z * (x₂ * y₂)`, pulling the shared variable `z` to the front on both sides. The PR also replaces the use of `ac_nf` in the normalization pass of `bv_decide`.

This tactic reuses the existing `ac_nf` implementation to (a) normalize compound atomic expression (e.g., `x + y` and `y + x` in `x * (y + x) * (x + y)`) and (b) produce an equivalence proof once a sharing-aware normal form has been determined. The new `ac_nf'` tactic is thus *not* a replacement for `ac_nf`.

Furthermore, we only run the normalization on terms of the form `(a * b)  = (c * d)` for `a, b, c, d` bitvectors. This mirrors Bitwuzla's `PassNormalize::process`'s `PassNormalize::normalize_eq_add_mul`. We leave the implementation of `PassNormalize::normalize_comm_assoc`, which is called when the toplevel terms are different for a subsequent patch.

For posterity, we record the precise location in Bitwuzla where the codepath occurs:

```cpp
-- https://github.com/bitwuzla/bitwuzla/blob/d1f1bc2ad3963936d3167afb879867364554cee7/src/preprocess/pass/normalize.cpp#L1550-L1554
        Kind k = cur.kind();
        if (k == Kind::EQUAL && children[0].kind() == children[1].kind()
            && (children[0].kind() == Kind::BV_ADD
                || children[0].kind() == Kind::BV_MUL))
        {
          auto [res, norm] = normalize_eq_add_mul(children[0], children[1]);
          ...
```

### CODE REVIEW

File: src/Lean/Meta/Tactic/AC/Sharing.lean [hunk 1]
```diff
@@ -0,0 +1,303 @@
...
+  StateT.run' x s
+
+/-! ### Implementation -/
+
+/-- Return a list with all variable indices that have a mapping.
+
+Note that this is always a complete sequence `0, 1, ..., (n-1)`, without skipping
+numbers. -/
+def getAllVarIndices : VarStateM (List VarIndex) := do
+  pure <| List.range (← get).varIndices.size
```
Comment (bollu) [inline src/Lean/Meta/Tactic/AC/Sharing.lean:45]: I don't think we should materialize this list, since we only use it for iteration!

File: src/Lean/Meta/Tactic/AC/Sharing.lean [hunk 2]
```diff
@@ -0,0 +1,303 @@
...
+  x : CoefficientsMap
+  y : CoefficientsMap
+
+/-- Given two sets of coefficients `x` and `y` (computed with the same variable
+mapping), extract the shared coefficients, such that `x` (resp. `y`) is the sum of
+coefficients in `common` and `x` (resp `y`) of the result. -/
+def SharedCoefficients.compute (x y : CoefficientsMap) : VarStateM SharedCoefficients := do
+  let mut res : SharedCoefficients := { x, y }
+
+  for idx in ← getAllVarIndices do
```
Comment (bollu) [inline src/Lean/Meta/Tactic/AC/Sharing.lean:112]:
```suggestion
  for idx in [0:(← get).varIndices.size]do
```

Way more efficient than materializing an `O(n)` size data structure using `O(n)` time to iterate from `0` to `n`!

File: src/Lean/Meta/Tactic/AC/Sharing.lean [hunk 3]
```diff
@@ -0,0 +1,303 @@
...
+
+/-- Compute the canonical expression for a given set of coefficients. -/
+def CoefficientsMap.toExpr (coe : CoefficientsMap) (op : Expr) : VarStateM (Option Expr) := do
+  let exprs := (← get).varExprs.toList
+  return (
+    exprs.enum
+    |>.flatMap (fun (idx, expr) =>
+      let cnt := coe[idx]?.getD 0
+      List.replicate cnt expr
+    )
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply src/Lean/Meta/Tactic/AC/Sharing.lean:133]: It very well might have some crazy asymptotics, although in practice I expect the number of variables and coefficients to be quite small. Nonetheless, happy to change it: I'd guess a nested for-loop that mutates the expression would be more efficient?

[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Lean/Meta/Tactic/AC/Sharing.lean:133]: It might be worth having a synthetic test case that exercises these bad assymptotics.

[the remark this answers is not in the document]
Comment (alexkeizer) [reply src/Lean/Meta/Tactic/AC/Sharing.lean:133]: I had a look with the following example
```
local macro "repeat_add" n:num "with" x:term  : term =>
  let rec go : Nat → MacroM Term
    | 0   => `($x)
    | n+1 => do
      let r ← go n
      `($r + $x)
  go n.getNat

set_option debug.skipKernelTC true in
example (x y : BitVec 64) :
    (repeat_add 124 with x + y) = (repeat_add 124 with x) + (repeat_add 124 with y) := by
  ac_nf!
  rfl
```

Using `124` and disabling kernel TC this is near instantaneous (~200ms). Using the same number, but with kernel TC is considerably slower, but still fast enough (5.5 s). Going higher trips up `simp`s recursion limit.

Conclusion: it's not worth it to optimize tactic runtime, since the bottleneck lies in other components.

[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Lean/Meta/Tactic/AC/Sharing.lean:133]: Perfect. Should we keep this as a test case?

File: src/Lean/Meta/Tactic/AC/Sharing.lean (hunk 1 above)
Comment (alexkeizer) [reply src/Lean/Meta/Tactic/AC/Sharing.lean]: I refactored the definition to return a `Range`

File: src/Lean/Meta/Tactic/AC/Sharing.lean (hunk 2 above)
Comment (alexkeizer) [reply src/Lean/Meta/Tactic/AC/Sharing.lean:112]: The current version should be fine, since I refactored `getAllVarIndices` to return the suggested range

File: src/Lean/Meta/Tactic/AC/Sharing.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (alexkeizer) [reply src/Lean/Meta/Tactic/AC/Sharing.lean:133]: Yes, I've added it to the test cases, with a comment explaining the above

**Comment by alexkeizer** [comment]
Currently, I've deliberately implemented the new `ac_nf!` without touching the implementation of `ac_nf` at all -- I do use ac_nf, but simply by calling the tactic to construct a proof, I don't share any datastructures or computation in the implementation.

This was deliberate, as I'd expect changes to ac_nf to invite additional scrutiny in review, but it does mean we're wasting some time by computing similar things twice. Then again, as the benchmark showed, tactic runtime is not a bottleneck at all, so this might be entirely fine. We *might* be able to also generate a more optimized proof-term by sharing implementation, which would be slightly more significant, but I'm not a 100% sure how much benefit there is on that side.

@bollu @hargoniX, thoughts?

**Comment by tobiasgrosser** [comment]
I think this was mostly fine. There was one change to ac_nf that deliberately changes the proof terms it generates to avoid overly eager kernel reduction. We should make sure these fixes also work in our case (change ac_nf history for details).

**Comment by luisacicolini** [comment]
had to temporarily comment a test for build to go through, working on it!

File: src/Lean/Meta/Tactic/AC/Sharing.lean [hunk 4]
```diff
@@ -282,10 +284,68 @@ def canonicalizeEqWithSharing (ty lhs rhs : Expr) : SimpM Simp.Step := do
       proof? := some proof
     }
 
+
+theorem beq_congr {α : Type u} [inst : BEq α] {a₁ b₁ a₂ b₂ : α} (h₁ : a₁ = a₂) (h₂ : b₁ = b₂) :
+  (a₁ == b₁) = (a₂ == b₂) := by
```
Comment (alexkeizer) [inline src/Lean/Meta/Tactic/AC/Sharing.lean:289]:
```suggestion
    (a₁ == b₁) = (a₂ == b₂) := by
```
formatting

Comment (alexkeizer) [reply src/Lean/Meta/Tactic/AC/Sharing.lean:289]: Also, I wonder if we couldn't just use a more generic `congrArg2`, like [Batteries](https://leanprover-community.github.io/mathlib4_docs/Batteries/Logic.html#congrArg%E2%82%82) has, and instantiate it with `f := @Eq \a` or `f := @BEq \a`

Comment (luisacicolini) [reply src/Lean/Meta/Tactic/AC/Sharing.lean]: sure! working on it together with the deduplication

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 5]
```diff
@@ -1,39 +1,401 @@
...
+`bv_ac_nf` normalizes equalities up to application of an associative and commutative operator,
+in a way that exposes common terms among both sides of an equality.
+- `ac_nf'` normalizes all hypotheses and the goal target of the goal.
+- `ac_nf' at l` normalizes at location(s) `l`, where `l` is either `*` or a
+  list of hypotheses in the local context. In the latter case, a turnstile `⊢` or `|-`
+  can also be used, to signify the target of the goal.
 
-end Frontend.Normalize
-end Lean.Elab.Tactic.BVDecide
+`bv_ac_nf'` differs from `bv_ac_nf` in how the canonical form of the left-hand-side of
```
Comment (alexkeizer) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:361]:
```suggestion
`bv_ac_nf'` differs from `ac_nf` in how the canonical form of the left-hand-side of
```

Also maybe mention that `bv_ac_nf` is specialized to bitvectors!

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 6]
```diff
@@ -173,24 +173,22 @@ That is, if `{ common, x', y' } ← SharedCoeffients.compute x y`, then
...
+    | _ => common
+
+  let x : CoefficientsMap := common.fold (init := x) fun x idx commonCnt =>
+    x.modify idx (fun cnt => cnt - commonCnt)
+
+  let y : CoefficientsMap := common.fold (init := y) fun y idx commonCnt =>
+    y.modify idx (fun cnt => cnt - commonCnt)
+
+  let (x, y) := if swappedXy then (y, x) else (x, y)
+  return { x := x, y := y, common := common}
```
Comment (alexkeizer) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:191]:
```suggestion
  return { x, y, common }
```
Slightly shorter, although either version is fine

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 7]
```diff
@@ -1,39 +1,362 @@
 /-
-Copyright (c) 2025 Lean FRO, LLC. All rights reserved.
+Copyright (c) 2024 Lean FRO, LLC. All rights reserved.
```
Comment (hargoniX) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:2]: Time travelling copyright is interesting :P Also an interesting question whether this file's copyright should be FRO if neither of the authors are associated with the FRO.

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 8]
```diff
@@ -1,39 +1,362 @@
...
+namespace Op
+
+/-- Given an expression of an (unapplied) operation, return the decoded `Op`.
+
+Return `none` if the expression is not a recognized operation. -/
+def ofExpr? (e : Expr) : Option Op :=
+  match_expr e with
+  | HMul.hMul bv _bv _bv inst =>
+    match bv with
+    | mkBitVec w => some (.mul w inst)
```
Comment (hargoniX) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:37]: Why do we need to have a special match pattern construct here instead of:
```
match_expr bv with
| BitVec w => some (.mul w inst)
```

Note that you could even use two `let_expr` with ` | return none` to implement this.

**Comment by bollu** [comment]
(Sid's notes on the algorithmic details are at: https://gist.github.com/bollu/e204a1f4d5a042695eee9cbaebce214a

File: tests/lean/run/bv_decide_rewriter.lean [hunk 9]
```diff
@@ -282,17 +282,21 @@ example (a : BitVec 16) : a * 8#16 = a <<< 3 := by
...
   bv_normalize
 
-section
+namespace NormalizeMul
+/- Test examples of the multiplication normalizer -/
 
 example (x y : BitVec 256) : x * y = y * x := by
   bv_decide (config := { acNf := true })
 
-example {x y z : BitVec 64} : ~~~(x &&& (y * z)) = (~~~x ||| ~~~(z * y)) := by
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply tests/lean/run/bv_decide_rewriter.lean:290]: @bollu, I believe you made this change?

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean (hunk 7 above)
Comment (alexkeizer) [reply src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:2]: The year is indeed wrong. Not sure what to do with the copyright: a tiny part of the original file (the declaration of the pass) remains, not sure what the copyright implications of that are

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean (hunk 8 above)
Comment (alexkeizer) [reply src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean]: I kept the top-level as a match, as it will have more alternatives in the future, but the second level I replaced with a let_expr as suggested

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 10]
```diff
@@ -1,39 +1,362 @@
...
+-/
+def VarStateM.computeCoefficients (op : Op) (e : Expr) : VarStateM CoefficientsMap :=
+  go {} e
+where
+  incrVar (coeff : CoefficientsMap) (e : Expr) : VarStateM CoefficientsMap := do
+    let idx ← exprToVar e
+    return coeff.alter idx (fun c => some <| (c.getD 0) + 1)
+  go (coeff : CoefficientsMap) : Expr → VarStateM CoefficientsMap
+  | e@(AC.bin op' x y) => do
+      if ← isDefEq op' op.toExpr then
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean]: I feel we do need the defEq check in the current check, as we might have weird expressions like (x * y : BitVec 2 + 2) * (z : BitVec 4), and we do need the `2 + 2` to be unified with `4`.

However, in practice we don't need to look at the width at all, so I refactored this to parse `op'` with `fromExpr?` and then assert that both operations are of the same kind (i.e., both are multiplications), ignoring the width and thus removing the need for a defEq check

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 11]
```diff
@@ -1,39 +1,362 @@
...
+    return Simp.Step.continue <| some {
+      expr := expr
+      proof? := some proof
+    }
+
+def post' : Simp.Simproc := fun e => do
+  match_expr e with
+  | Eq ty lhs rhs =>
+      let u ← getLevel ty
+      let P := mkApp (.const ``Eq [u]) ty
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean]: Fair enough, I've removed the match arm for `Eq`. I also slightly refactored the match to avoid the `getLevel` inference

File: tests/lean/run/bv_decide_rewriter.lean (hunk 9 above)
[the remark this answers is not in the document]
Comment (bollu) [reply tests/lean/run/bv_decide_rewriter.lean:290]: I explained this in PM, but repeating it here: Bitwuzla uses a different algorithm to normalize toplevel multiplications `a * b = c * d` type expressions to subtree multiplications, where the multiplication occurs in the a subtree of the bitwise expression. In order to retain this structure, we only implement the fragment of the Bitwuzla normalizer for the toplevel multiplication, leaving the subtree version for the subsequent PR.
